US06277843B1
Preparation of methyl-2,2′-dimethoxy-biphenyl-6-carboxylate
Using the procedure outlined in Step A of Example 18, 201.7 mg (0.69 mmol) of methyl-2-iodo-3-methoxy-benzoate and 125.9 mg (0.82 mmol) of 2-methoxy-phenylboronic acid gave after 27 hours of reflux a quantitative yield of the title substance.

reactant | methyl-2-iodo-3-methoxy-benzoate | 0.69 mmol, 201.7 mg | COC(C1=C(C(=CC=C1)OC)I)=O | C9H9IO3
reactant | 2-methoxy-phenylboronic acid | 0.82 mmol, 125.9 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | methyl-2,2′-dimethoxy-biphenyl-6-carboxylate | quantitative yield | COC(=O)C1=CC=CC(=C1C1=C(C=CC=C1)OC)OC | C16H16O4
